US05883098
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)-benzoyl]-2-(1H-indol-3-ylmethyl)piperazine (120 mg), 4-chloromethyl-2-(2-methoxyethylcarbonylamino)thiazole (70 mg) and powdered sodium hydrogen carbonate (27 mg) in dry dimethylformamide was stirred for 5 hours and 20 minutes at 60° C. The reaction mixture was powered into water and the resulting precipitate was collected by filtration. The crude product was purified by column chromatography on silica gel eluting with a mixture of dichloromethane and methanol (30:1). The eluate was evaporated under reduced pressure and treated with 17.6% hydrogen chloride in ethanol (0.12 ml) to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-4-[[2-(3-methoxypropanoylamino)thiazol-4-yl]methyl]piperazine hydrochloride (140 mg).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)-benzoyl]-2-(1H-indol-3-ylmethyl)piperazine | 120 mg | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C22H19F6N3O
reactant | 4-chloromethyl-2-(2-methoxyethylcarbonylamino)thiazole | 70 mg | ClCC=1N=C(SC1)NC(=O)CCOC | C8H11ClN2O2S
reactant | sodium hydrogen carbonate | 27 mg | C(O)([O-])=O.[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-4-[[2-(3-methoxypropanoylamino)thiazol-4-yl]methyl]piperazine hydrochloride | 140 mg | Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC=2N=C(SC2)NC(CCOC)=O)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C30H29F6N5O3S.ClH/c1-44-9-6-26(42)39-28-38-22(17-45-28)15-40-7-8-41(23(16-40)12-19-14-37-25-5-3-2-4-24(19)25)27(43)18-10-20(29(31,32)33)13-21(11-18)30(34,35)36;/h2-5,10-11,13-14,17,23,37H,6-9,12,15-16H2,1H3,(H,38,39,42);1H/t23-;/m1./s1
